US07129234B2
4-(3,4-dichlorophenoxy)nicotinaldehyde
The title compound was prepared according to Preparation 65 starting from 3,4-dichlorophenol and 4-chloronicotinaldehyde (prepared according to D. Albanese, M. Penso, M. Zenoni, Synthesis 1999, 1294–1296); δH (CDCl3, 400 MHz) 6.71 (1H, d), 7.04 (1H, dd), 7.27 (1H, m), 7.55 (1H, d), 8.02 (1H, s), 8.60 (1H, dd), 10.54 (1H, s); MS rn/z268 (MH+).

reactant | 3,4-dichlorophenol | ClC=1C=C(C=CC1Cl)O | C6H4Cl2O
reactant | 4-chloronicotinaldehyde | ClC1=CC=NC=C1C=O | C6H4ClNO
product | 4-(3,4-dichlorophenoxy)nicotinaldehyde | ClC=1C=C(OC2=CC=NC=C2C=O)C=CC1Cl | C12H7Cl2NO2
